* source JEDL_PROJECT_1
V_V2         N00125 N00357  
+SIN 0 12.6 120Hz 0 0 0
D_D1         0 N00125 Dbreak 
D_D2         0 N00357 Dbreak 
D_D3         N00125 N00207 Dbreak 
D_D4         N00357 N00207 Dbreak 
C_Filtering_Capacitor         0 N00207  1000u  TC=0,0 
X_U1         N03577 N03570 N03891 N04064 N04095 0 0 N03884 N00207 N00207 N03521
+  LM723
C_Frequency_Compensation         0 N03521  100p  TC=0,0 
R_Current_Sense_Resistor         N03570 N03577  1k TC=0,0 
R_RS         N03891 N03884  3k TC=0,0 
R_RZ         0 N03891  1k TC=0,0 
R_Between_Vref_and_NI         N04095 N04064  1k TC=0,0 
I_I1         N03884 0 DC 500mAdc  
C_C1         0 N03884  1000u  TC=0,0 
