* source JEDL_PROJECT_1
V_V2         N00125 N00357  
+SIN 0 28 120Hz 0 0 0
D_D1         0 N00125 Dbreak 
D_D2         0 N00357 Dbreak 
D_D3         N00125 N00207 Dbreak 
D_D4         N00357 N00207 Dbreak 
C_Filtering_Capacitor         0 N00207  1000u  TC=0,0 
X_U1         N03577 N03570 N03891 N04064 N04095 0 N03884 N03884 N00207 N00207
+  N03521 LM723
C_Frequency_Compensation         N03891 N03521  100p  TC=0,0 
R_Current_Sense_Resistor         N03570 N03577  1k TC=0,0 
R_RS         N03891 N03884  5k TC=0,0 
R_RZ         0 N03891  30k TC=0,0 
R_Between_Vref_and_NI         N04095 N04064  4285 TC=0,0 
R_R1         0 N03884  1k TC=0,0 
